US07838524B2
N-(4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)-phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)-3-methoxypropanamide
To a solution of 1-[2-(4-aminophenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea (200 mg, 0.45 mmol) and 3-methoxypropionyl chloride (55 mg, 0.45 mmol) in anhydrous THF (5 mL) was added Et3N (69 mg, 0.68 mmol). The reaction was stirred at room temperature for 7 h, and then partitioned between EtOAc (50 mL) and water (50 mL). The organic layer was washed with brine, dried over Na2SO4, and concentrated at reduced pressure. The residue was purified by MPLC (1:1 hexanes/EtOAc) to give 51 mg (21%) of the desired product. 1H-NMR (DMSO-d6) δ 10.16 (s, 1H), 9.14 (s, 1H), 8.42 (d, J=4.8 Hz, 2H), 8.34 (s, 1H), 7.74 (d, J=6.9 Hz, 2H), 7.48 (d, J=6.9 Hz, 2H), 7.43 (d, J=8.7 Hz, 2H), 7.08 (d, J=6.6 Hz, 2H), 6.88 (d, J=5.4 Hz, 2H), 6.35 (s, 1H), 3.63 (t, J=6.0 Hz, 2H), 3.33 (s, 3H), 2.57 (t, J=6.0 Hz, 2H), 1.27 (s, 9H); MS LC-MS [M+H]+=529, RT=2.20 min.

reactant | 1-[2-(4-aminophenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)phenyl]urea | 0.45 mmol, 200 mg | NC1=CC=C(C=C1)N1N=C(C=C1NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C(C)(C)C | C25H26N6O2
reactant | 3-methoxypropionyl chloride | 0.45 mmol, 55 mg | COCCC(=O)Cl | C4H7ClO2
reactant | Et3N | 0.68 mmol, 69 mg | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-{3-tert-Butyl-5-[({[4-(pyridin-4-yloxy)-phenyl]amino}carbonyl)amino]-1H-pyrazol-1-yl}phenyl)-3-methoxypropanamide | 51 mg, 21% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC=C(C=C1)NC(CCOC)=O | C29H32N6O4
